US07989454B2
4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid
4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (8.7 g) was dissolved in THF (30 mL) and 2 M NaOH was added (30 mL). The resulting heterogeneous mixture was stirred vigorously at 55° C. for 4 h. Then it was acidified with 3 N HCl and extracted into diethyl ether. Etherate extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to produce 8.1 g (100% yield) of colorless oil which solidified upon standing.

reactant | 4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 8.7 g | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCOC1=CC(=CC(=C1)I)C(NCC1=CC=CC=C1)=O)CCC(=O)OCC)=O | C37H46INO7
reactant | NaOH | 2 M | [OH-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-[3-[6-(3-Benzylcarbamoyl-5-iodo-phenoxy)-hexyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | 8.1 g, 100% yield | C(C1=CC=CC=C1)NC(=O)C=1C=C(OCCCCCCC=2C(=C(OCCCC(=O)O)C=CC2)CCC(=O)O)C=C(C1)I | C33H38INO7
